US05185251
Step A: 2-Benzyloxy-5-acetyl-6-methylpyridin-3-carbonitrile
A mixture of 3-cyano-5-acetyl-6-methyl-2(1H)-pyridinone (1.76 g, 0.01 mol) (L. Mosti et al, J. Het. Chem. 22, 1503 (1985)), benzyl bromide (2.12 g, 0.012 mol), silver carbonate (3.06 g, 0.011 mol) in benzene was stirred at room temperature under a nitrogen atmosphere overnight, while protected from light. The following day the mixture was filtered, and the solids washed well with benzene. Evaporation of the filtrate gave the desired intermediate, mp 94°-99° C.

reactant | 3-cyano-5-acetyl-6-methyl-2(1H)-pyridinone | 0.01 mol, 1.76 g | C(#N)C=1C(NC(=C(C1)C(C)=O)C)=O | C9H8N2O2
reactant | benzyl bromide | 0.012 mol, 2.12 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | 0.011 mol, 3.06 g | C([O-])([O-])=O.[Ag+2]
product | 2-Benzyloxy-5-acetyl-6-methylpyridin-3-carbonitrile | C(C1=CC=CC=C1)OC1=NC(=C(C=C1C#N)C(C)=O)C | C16H14N2O2
